US07579488B2
[(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carbonyl)-methyl-amino]-acetic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid (720 mg, 1.60 mmol) in CH2Cl2 (10 mL) and DMAP (586 mg, 4.80 mmol) and EDC (460 mg, 2.40 mmol) are reacted with sarcosine ethyl ester hydrochloride (368 mg, 2.40 mmol) and the intermediate ester is hydrolyzed analogous to Example 7 to yield title compound (610 mg, 73%). MS (ES) m/e: 520.3 (M−1), 522.3 (M+1)

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid | 1.60 mmol, 720 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C)C)=O)(C)C | C28H34O5
reactant | EDC | 2.40 mmol, 460 mg
reactant | sarcosine ethyl ester hydrochloride | 2.40 mmol, 368 mg | Cl.C(C)OC(CNC)=O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.80 mmol, 586 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carbonyl)-methyl-amino]-acetic acid | 610 mg, 73% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)N(C)CC(=O)O)C1)C)C)=O)(C)C | C31H39NO6
